### PR TITLE
feat: Introduce theorems for manual bounded parametric bitvector proofs

### PR DESCRIPTION
**Pull request by luigirinaldi**
- Introduce some of the key theorems necessary to prove bounded parametric bitvector formulas.
- Use them in `Examples.lean` to prove commutativity of addition by manually working through the proof steps. 
- Theorems are grouped in different files according to their function.
- Overall approach is documented in `PBV.lean`.

This PR sets the groundwork for developing a fully automated bounded bitvector tactic.

Developed-by: @bollu @luigirinaldi

### CODE REVIEW

**Comment by bollu** [comment]
I like this style of doing it quite a bit, where you start with the manual proof. Might help cleanup the vibecoded tactic by a bunch :)

**Comment by luigirinaldi** [comment]
Hopefully that's the case, in the meantime it helps in understand how the tactic actually works :)

File: Veir/Data/PBV/BitVec.lean [hunk 1]
```diff
@@ -0,0 +1,19 @@
...
+
+namespace BitVec
+
+/-- Widening is injective --/
+theorem setWidth_inj {w o : Nat} (h : w ≤ o) {a b : BitVec w}
+    (hab : a.setWidth o = b.setWidth o) : a = b := by
+  apply BitVec.eq_of_toNat_eq
+  rw [BitVec.toNat_eq] at hab
+  repeat rw [BitVec.toNat_setWidth_of_le h] at hab
+  exact hab
```
Comment (bollu) [inline Veir/Data/PBV/BitVec.lean]: Can this proof be `grind [BitVec.toNat_setWidth_of_le]` ed away?

File: Veir/Data/PBV/Mask.lean [hunk 2]
```diff
@@ -0,0 +1,53 @@
...
+theorem ofNat_setWidth : BitVec.ofNat w x = BitVec.setWidth w (BitVec.ofNat w x)
+  :=
+  by grind
+
+theorem toNat_maskOfWidth {o w : Nat} (h : w ≤ o) :
+    (maskOfWidth o w).toNat = 2 ^ w - 1 := by
+  rw [maskOfWidth, BitVec.toNat_ofNat, Nat.mod_eq_of_lt]
+  have h1 : 2 ^ w ≤ 2 ^ o := Nat.pow_le_pow_right (by omega) h
+  have h2 : 0 < 2 ^ w := Nat.two_pow_pos w
+  omega
```
Comment (bollu) [inline Veir/Data/PBV/Mask.lean]:
```suggestion
  grind
```

Let's use `grind` wherever possible.

**Review by bollu — APPROVED** [review]
LGTM, thanks for the high level explanation of what's going on.

File: Veir/Data/PBV/Elim.lean [hunk 3]
```diff
@@ -0,0 +1,36 @@
+module
+
+public import Veir.Data.PBV.Mask
+public import Veir.Data.PBV.Push
+
+/-! # Steps 3 and 4: replacing `Nat` widths and parametric-width variables.
```
Comment (tobiasgrosser) [inline Veir/Data/PBV/Elim.lean]: I would not keep `Steps 3 and 4` around here, as a typical reader would likely not have the context to figure out where the other steps are.

File: Veir/Data/PBV/Mask.lean [hunk 4]
```diff
@@ -0,0 +1,53 @@
+module
+/-! # Step 5: masks as bitvector variables constrained by `m &&& (m + 1) = 0`.
```
Comment (tobiasgrosser) [inline Veir/Data/PBV/Mask.lean]: I would not keep the `Step 5` numbering here. Instead, explain just locally what masks are useful for.

File: Veir/Data/PBV/Mask.lean [hunk 5]
```diff
@@ -0,0 +1,53 @@
...
+
+namespace Veir.Data.PBV
+
+public section
+
+/-- `maskOfWidth o w : BitVec o` has its low `w` bits set and all higher bits clear. -/
+def maskOfWidth (o w : Nat) : BitVec o := BitVec.ofNat o (2 ^ w - 1)
+
+/-- `m.IsMask` holds when `m = 2^k - 1` for some `k`; the only fact the bitblaster gets about a
+width. -/
```
Comment (tobiasgrosser) [inline Veir/Data/PBV/Mask.lean]: This line is too long, break it at 120 characters max.

File: Veir/Data/PBV/Mask.lean [hunk 6]
```diff
@@ -0,0 +1,53 @@
...
+def IsMask {o : Nat} (m : BitVec o) : Prop := m &&& (m + 1#o) = 0#o
+
+theorem ofNat_setWidth : BitVec.ofNat w x = BitVec.setWidth w (BitVec.ofNat w x)
+  :=
```
Comment (tobiasgrosser) [inline Veir/Data/PBV/Mask.lean]: The linebreak here is surprising. Does `:=` really need to be in its separate line.

File: Veir/Data/PBV/Push.lean [hunk 7]
```diff
@@ -0,0 +1,56 @@
...
+/-- Reduction mod `2^o` is absorbed by the later reduction mod the smaller `2^w`. -/
+theorem mod_two_pow_mod_two_pow_of_le' {w o : Nat} (h : w ≤ o) (n : Nat) :
+    n % 2 ^ o % 2 ^ w = n % 2 ^ w :=
+  Nat.mod_mod_of_dvd _ (Nat.pow_dvd_pow 2 h)
+
+/-- Widening and truncating back is the identity: the round trip `pbv_var_elim` relies on. -/
+theorem setWidth_setWidth_eq_self {w o : Nat} (h : w ≤ o) (x : BitVec w) :
+    (x.setWidth o).setWidth w = x := by
+  apply BitVec.eq_of_toNat_eq
+  rw [BitVec.toNat_setWidth, BitVec.toNat_setWidth_of_le h, Nat.mod_eq_of_lt x.isLt]
```
Comment (tobiasgrosser) [inline Veir/Data/PBV/Push.lean]: Should this be in the `BitVec` file?

File: Veir/Data/PBV.lean [hunk 8]
```diff
@@ -0,0 +1,48 @@
...
+public import Veir.Data.PBV.Push
+public import Veir.Data.PBV.Examples
+
+/-!
+# Bounded parametric bitvector solving
+
+Parametric bitvector formulas are in general undecidable, but by placing a bound on the widths we wish
+to consider the formula can be transformed into a bit-blastable form, discharged by `bv_decide`.
+Naively, bounding the widths means enumerating and generating queries exponential in the number of
+widths parameters, in this technique the formula is solved by a single QF_BV query.
```
Comment (tobiasgrosser) [inline Veir/Data/PBV.lean]:
```suggestion
widths parameters. The technique presented here solves a given formula in a single QF_BV query.
```

File: Veir/Data/PBV.lean [hunk 9]
```diff
@@ -0,0 +1,48 @@
...
+   on the widths into conditions on the masks (for example, a width being smaller than another).
+6. Rewrite the parametric expression into a concrete, single-width formula.
+7. Remove the hypotheses about the `Nat` widths.
+8. Bit-blast using `bv_decide`.
+
+## Where each step lives
+
+* `Veir.Data.PBV.BitVec` — `BitVec` lemmas used by the translation; nothing PBV-specific.
+* `Veir.Data.PBV.Mask` — step 5: `maskOfWidth`, `IsMask`, and the mask constraint.
+* `Veir.Data.PBV.Elim` — steps 3 and 4: `width_elim` and `var_elim`.
```
Comment (tobiasgrosser) [inline Veir/Data/PBV.lean]:
```suggestion
* `Veir.Data.PBV.Elim` — steps 3 and 4: `width_elim` and `var_elim`. 
* `Veir.Data.PBV.Mask` — step 5: `maskOfWidth`, `IsMask`, and the mask constraint.
```

Comment (tobiasgrosser) [reply Veir/Data/PBV.lean]: If there is no reason to have 5 before `3 and 4`, I would sort this by increasing numbers.

File: Veir/Data/PBV.lean [hunk 10]
```diff
@@ -0,0 +1,48 @@
...
+* `Veir.Data.PBV.Push` — step 6: pushing `setWidth o` from the root of the goal down to its leaves.
+* `Veir.Data.PBV.Examples` — a manual trace of the whole pipeline.
+
+The algorithm and its original implementation were developed by `@bollu`.
```
Comment (tobiasgrosser) [inline Veir/Data/PBV.lean]: I do not think we should add random acknowledgements into the code. However, we should remember to add a link to the publication, the algorithmic idea is based on after it has been released. You can acknowledge by adding a `Contributed-by: ` line to the PR message.

File: Veir/Data/PBV.lean (hunk 8 above)
Comment (tobiasgrosser) [reply Veir/Data/PBV.lean]: Maybe show a small example here?

File: Veir/Data/PBV/Examples.lean [hunk 11]
```diff
@@ -0,0 +1,98 @@
...
+      -- Push `setWidth` down add, masking the result
+      _ = ((BitVec.setWidth 4 xw + BitVec.setWidth 4 yw) &&& mw
+         = (BitVec.setWidth 4 yw + BitVec.setWidth 4 xw) &&& mw) := by
+        rw [setWidth_add w_le_bw, setWidth_add w_le_bw, ← h_mw]
+      -- Push `setWidth` down setWidth, unfolding `xw`, `yw` to reach the leaves `x`, `y`
+      _ = (((BitVec.setWidth 4 x &&& mw) + (BitVec.setWidth 4 y &&& mw)) &&& mw
+         = ((BitVec.setWidth 4 y &&& mw) + (BitVec.setWidth 4 x &&& mw)) &&& mw) := by
+        rw [← h_xw, ← h_yw, setWidth_setWidth w_le_bw, setWidth_setWidth w_le_bw, ← h_mw]
+      -- Remove redundant setWidths
+      _ = (((x &&& mw) + (y &&& mw)) &&& mw = ((y &&& mw) + (x &&& mw)) &&& mw) := by
```
Comment (tobiasgrosser) [inline Veir/Data/PBV/Examples.lean]: Is there a rewrite that does rewrites `((x &&& mw) + (y &&& mw)) &&& mw` to `(x + y) &&& mw`. This should be generally true, no? Not sure it always improves performance, so we can probably leave it out for now. But maybe keep it in mind for the future.

**Review by tobiasgrosser — COMMENTED** [review]
Very cool. Here a first round of comments.

File: Veir/Data/PBV/BitVec.lean [hunk 12]
```diff
@@ -0,0 +1,19 @@
+module
+/-! # `BitVec` lemmas used by the parametric-bitvector translation.
+
+These mention nothing specific to `PBV`
```
Comment (tobiasgrosser) [inline Veir/Data/PBV/BitVec.lean]:
```suggestion
These mention nothing specific to `PBV`.
```

File: Veir/Data/PBV/BitVec.lean (hunk 1 above)
Comment (luigirinaldi) [reply Veir/Data/PBV/BitVec.lean]: it can

File: Veir/Data/PBV.lean (hunk 10 above)
Comment (luigirinaldi) [reply Veir/Data/PBV.lean]: That makes sense, @bollu is there a link to a preprint? If not, we could link the `pbvnto1` repo in the meantime?

File: Veir/Data/PBV/Examples.lean (hunk 11 above)
Comment (luigirinaldi) [reply Veir/Data/PBV/Examples.lean]: No there is no such rewrite at the moment, but I think it's a very interesting question. I think it would come under the umbrella of more heuristics based aids to the tactic. Definitely worth exploring more, probably worth benchmarking in order to get a sense of how useful it would be

File: Veir/Data/PBV.lean (hunk 10 above)
Comment (tobiasgrosser) [reply Veir/Data/PBV.lean]: Let's just keep this in mind. There is nothing that can be linked. The pbvnto1 is not public and there is no pre-print out. Give it a bit and the paper will be public.

**Comment by bollu** [comment]
@tobiasgrosser waiting on your review!

File: Veir/Data/PBV/Mask.lean [hunk 13]
```diff
@@ -0,0 +1,53 @@
...
+constraint `m &&& (m + 1) = 0` is the only fact about that mask the bitblaster
+is given. See `Veir.Data.PBV` for the pipeline this step belongs to.
+-/
+
+namespace Veir.Data.PBV
+
+public section
+
+/-- `maskOfWidth o w : BitVec o` has its low `w` bits set. -/
+def maskOfWidth (o w : Nat) : BitVec o := BitVec.ofNat o (2 ^ w - 1)
```
Comment (tobiasgrosser) [inline Veir/Data/PBV/Mask.lean:17]: I am wondering if `lowMask` would be a more descriptive name?

File: Veir/Data/PBV/Mask.lean [hunk 14]
```diff
@@ -0,0 +1,53 @@
...
+public import Veir.Data.PBV.Lemmas
+
+/-! # Masks as bitvector variables constrained by `m &&& (m + 1) = 0`.
+
+A width `w` is represented by the mask `2^w - 1` of the blast width, and the
+constraint `m &&& (m + 1) = 0` is the only fact about that mask the bitblaster
+is given. See `Veir.Data.PBV` for the pipeline this step belongs to.
+-/
+
+namespace Veir.Data.PBV
```
Comment (tobiasgrosser) [inline Veir/Data/PBV/Mask.lean:12]: Is there a reason these are not in the `BitVec` namespace? This would make `.` notation actually work.

File: Veir/Data/PBV/Mask.lean [hunk 15]
```diff
@@ -0,0 +1,53 @@
...
+
+public section
+
+/-- `maskOfWidth o w : BitVec o` has its low `w` bits set. -/
+def maskOfWidth (o w : Nat) : BitVec o := BitVec.ofNat o (2 ^ w - 1)
+
+/-- `m.IsMask` holds when `m = 2^k - 1` for some `k`; the only fact the
```
Comment (tobiasgrosser) [inline Veir/Data/PBV/Mask.lean]: The `m.IsMask` notation in the comment only works if we use the `BitVec` namespace. I guess you could use `namespace Veir.Data.PBV.BitVec`. Would that work?

File: Veir/Data/PBV/Mask.lean [hunk 16]
```diff
@@ -0,0 +1,53 @@
...
+/-- Soundness: every real mask satisfies the constraint. -/
+theorem isMask_maskOfWidth {o w : Nat} (_h : w <= o) :
+    IsMask (maskOfWidth o w) := by
+  simp [IsMask, maskOfWidth, BitVec.ofNat_add_ofNat, ← BitVec.ofNat_and,
+    Nat.sub_add_cancel Nat.one_le_two_pow, Nat.and_comm (2 ^ w - 1),
+    Nat.and_two_pow_sub_one_eq_mod]
+
+/-- The mask constraint: the only fact about `m` surviving abstraction. -/
+theorem mask_isMask {o w : Nat} {m : BitVec o} (hwo : w ≤ o)
+    (hm : m = maskOfWidth o w) : m &&& (m + 1#o) = 0#o := by
```
Comment (tobiasgrosser) [inline Veir/Data/PBV/Mask.lean]: Should `m &&& (m + 1#o) = 0#o` be `IsMask` or is there a specific reason you unfolded this one?

File: Veir/Data/PBV/Mask.lean [hunk 17]
```diff
@@ -0,0 +1,53 @@
...
+  exact isMask_maskOfWidth hwo
+
+/-- ANDing with `maskOfWidth o w` keeps exactly the low `w` bits. -/
+theorem toNat_and_maskOfWidth {o w : Nat} (h : w ≤ o) (x : BitVec o) :
+    (x &&& maskOfWidth o w).toNat = x.toNat % 2 ^ w := by
+  rw [BitVec.toNat_and, toNat_maskOfWidth h, Nat.and_two_pow_sub_one_eq_mod]
+
+/-- Introduction rule for every push lemma: it suffices that `b = a` mod `2^w`. -/
+theorem setWidth_eq_and_maskOfWidth {w o : Nat} (h : w ≤ o) {a : BitVec w}
+    {b : BitVec o} (hab : b.toNat % 2 ^ w = a.toNat) :
```
Comment (tobiasgrosser) [inline Veir/Data/PBV/Mask.lean]: I feel in Lean we typically put objects before hypothesis, especially if the objects are implicit. Can you make this:

```lean
theorem setWidth_eq_and_maskOfWidth {w o : Nat} {a : BitVec w} {b : BitVec o}
    (h : w ≤ o) (hab : b.toNat % 2 ^ w = a.toNat)
```

File: Veir/Data/PBV/Elim.lean [hunk 18]
```diff
@@ -0,0 +1,36 @@
...
+public import Veir.Data.PBV.Mask
+
+/-! # Replacing `Nat` widths and parametric-width variables.
+
+`width_elim` names the mask of a width, and `var_elim` replaces a variable of
+parametric width `w` by one of the blast width `o` that is invariant under masking.
+See `Veir.Data.PBV` for the pipeline these steps belong to.
+-/
+
+namespace Veir.Data.PBV
```
Comment (tobiasgrosser) [inline Veir/Data/PBV/Elim.lean:13]: Do we need to change the namespace to make `.` notation work, e.g., by appending `BitVec`?

File: Veir/Data/PBV/Lemmas.lean [hunk 19]
```diff
@@ -0,0 +1,45 @@
...
+-/
+
+public section
+
+namespace Nat
+
+/-- Reduction mod `2^o` is absorbed by the later reduction mod the smaller `2^w`. -/
+theorem mod_two_pow_mod_two_pow_of_le {w o : Nat} (h : w ≤ o) (n : Nat) :
+    n % 2 ^ o % 2 ^ w = n % 2 ^ w :=
+  Nat.mod_mod_of_dvd _ (Nat.pow_dvd_pow 2 h)
```
Comment (tobiasgrosser) [inline Veir/Data/PBV/Lemmas.lean]: This trivially generalizes to `n % x ^ o % x ^ w = n % x ^ w`, which would allow a shorter theorem name.

Also, should this be in `Lemmas.lean`?

File: Veir/Data/PBV/Lemmas.lean [hunk 20]
```diff
@@ -0,0 +1,45 @@
...
+
+namespace BitVec
+
+/-- Widening is injective --/
+theorem setWidth_inj {w o : Nat} (h : w ≤ o) {a b : BitVec w}
+    (hab : a.setWidth o = b.setWidth o) : a = b := by
+  apply eq_of_toNat_eq
+  rw [toNat_eq] at hab
+  repeat rw [toNat_setWidth_of_le h] at hab
+  exact hab
```
Comment (tobiasgrosser) [inline Veir/Data/PBV/Lemmas.lean]:
```suggestion
  simpa [h] using congrArg (BitVec.setWidth w) hab
```

File: Veir/Data/PBV/Mask.lean [hunk 21]
```diff
@@ -0,0 +1,53 @@
...
+
+theorem toNat_maskOfWidth {o w : Nat} (h : w ≤ o) :
+    (maskOfWidth o w).toNat = 2 ^ w - 1 := by
+  rw [maskOfWidth, BitVec.toNat_ofNat, Nat.mod_eq_of_lt]
+  have h1 : 2 ^ w ≤ 2 ^ o := Nat.pow_le_pow_right (by omega) h
+  have h2 : 0 < 2 ^ w := Nat.two_pow_pos w
+  grind
+
+/-- Soundness: every real mask satisfies the constraint. -/
+theorem isMask_maskOfWidth {o w : Nat} (_h : w <= o) :
```
Comment (tobiasgrosser) [inline Veir/Data/PBV/Mask.lean]:
```suggestion
theorem isMask_maskOfWidth {o w : Nat}:
```

This hypothesis is not needed.

File: Veir/Data/PBV/Lemmas.lean [hunk 22]
```diff
@@ -0,0 +1,45 @@
...
+theorem ushiftRight_one_le {o : Nat} (m : BitVec o) : m >>> 1 ≤ m := by
+  rw [le_def, toNat_ushiftRight, Nat.shiftRight_eq_div_pow]
+  exact Nat.div_le_self _ _
+
+theorem twoPow_ne_zero {o k : Nat} (h : k < o) : twoPow o k ≠ 0#o := by
+  intro hcontra
+  have hn := congrArg BitVec.toNat hcontra
+  rw [toNat_twoPow, toNat_zero,
+    Nat.mod_eq_of_lt (Nat.pow_lt_pow_right (by omega) h)] at hn
+  exact absurd hn (Nat.ne_of_gt (Nat.two_pow_pos k))
```
Comment (tobiasgrosser) [inline Veir/Data/PBV/Lemmas.lean]:
```suggestion
```

These theorems are dead and unused. Let's remove them for now.

File: Veir/Data/PBV.lean [hunk 23]
```diff
@@ -0,0 +1,56 @@
...
+/-!
+# Bounded parametric bitvector solving
+
+Parametric bitvector formulas are in general undecidable, but by placing a bound
+on the widths we wish to consider the formula can be transformed into a
+bit-blastable form, discharged by `bv_decide`. Naively, bounding the widths means
+enumerating and generating queries exponential in the number of widths parameters.
+The technique presented here solves a given formula in a single QF_BV query.
+
+For example me might want to prove addition is commutative for all bitvectors
```
Comment (tobiasgrosser) [inline Veir/Data/PBV.lean]:
```suggestion
For example we might want to prove addition is commutative for all bitvectors
```

File: Veir/Data/PBV.lean [hunk 24]
```diff
@@ -0,0 +1,56 @@
...
+public import Veir.Data.PBV.Push
+public import Veir.Data.PBV.Examples
+
+/-!
+# Bounded parametric bitvector solving
+
+Parametric bitvector formulas are in general undecidable, but by placing a bound
+on the widths we wish to consider the formula can be transformed into a
+bit-blastable form, discharged by `bv_decide`. Naively, bounding the widths means
+enumerating and generating queries exponential in the number of widths parameters.
```
Comment (tobiasgrosser) [inline Veir/Data/PBV.lean]:
```suggestion
enumerating and generating queries exponential in the number of width parameters.
```

File: Veir/Data/PBV/Examples.lean [hunk 25]
```diff
@@ -0,0 +1,95 @@
...
+
+/-! # Manual traces of the bounded parametric bitvector pipeline.
+
+Each example works through the steps documented in `Veir.Data.PBV` by hand.
+-/
+
+namespace Veir.Data.PBV
+
+/-- Manual trace of the future tactic, transforming an unbounded parametric width
+    statement into a bounded one and solving it up the bound (4 in this case) -/
```
Comment (tobiasgrosser) [inline Veir/Data/PBV/Examples.lean]:
```suggestion
    statement into a bounded one and solving it up to the bound (4 in this case) -/
```

File: Veir/Data/PBV.lean [hunk 26]
```diff
@@ -0,0 +1,56 @@
+module
+
+public import Veir.Data.PBV.Mask
+public import Veir.Data.PBV.Elim
+public import Veir.Data.PBV.Push
+public import Veir.Data.PBV.Examples
```
Comment (tobiasgrosser) [inline Veir/Data/PBV.lean]:
```suggestion
import Veir.Data.PBV.Examples
```
No need to public import here.

File: Veir/Data/PBV/Push.lean [hunk 27]
```diff
@@ -0,0 +1,43 @@
...
+theorem setWidth_setWidth {w o : Nat} (h : w ≤ o) :
+    ∀ {u : Nat} (a : BitVec u),
+      (a.setWidth w).setWidth o = a.setWidth o &&& maskOfWidth o w := by
+  intro u a
+  refine setWidth_eq_and_maskOfWidth h ?_
+  rw [BitVec.toNat_setWidth, BitVec.toNat_setWidth, Nat.mod_two_pow_mod_two_pow_of_le h]
+
+/-! ### Width-sensitive arithmetic: mask the result -/
+
+theorem setWidth_add {w o : Nat} (h : w ≤ o) :
```
Comment (tobiasgrosser) [inline Veir/Data/PBV/Push.lean:36]: I feel the comments are a bit unorganized here. We have no comments on the actual theorems, but three section headers with different depths.

File: Veir/Data/PBV/Elim.lean [hunk 28]
```diff
@@ -0,0 +1,36 @@
...
+
+public section
+
+/-! ## Introducing masks -/
+
+/-- Name the mask of a width; the content is in what the tactic keeps after clearing `hm`. -/
```
Comment (tobiasgrosser) [inline Veir/Data/PBV/Elim.lean]: `hm` is not an argument of this theorem.

File: Veir/Data/PBV/Elim.lean [hunk 29]
```diff
@@ -0,0 +1,36 @@
...
+theorem width_elim (o w : Nat) (Q : Prop)
+    (h : ∀ (m : BitVec o), m = maskOfWidth o w → Q) : Q :=
+  h _ rfl
+
+/-! ## Eliminating parametric-width variables -/
+
+/-- Every `x : BitVec w` is the truncation of a `BitVec o` invariant under masking by `w`'s mask. -/
```
Comment (tobiasgrosser) [inline Veir/Data/PBV/Elim.lean]: I feel this is the key theorem. Can we have a small example in the doc string and explain what it is doing?

File: Veir/Data/PBV/Elim.lean (hunk 28 above)
Comment (tobiasgrosser) [reply Veir/Data/PBV/Elim.lean]: I am also not sure I get the comment here. This seems critical. Probably worth expanding this comment as a human, maybe also with an example, to make sure the theorem is well understood.

**Review by tobiasgrosser — COMMENTED** [review]
Hi @luigirinaldi and @bollu, I went over the PR in detail. Very good work. In the end, this is functionally there. However, I went over this in great detail to make sure we start from a polished base where everyone understands the design choices. Hence, I was rather nit-picky and asked about anything I could not understand.

I expect this needs 2-3 more iterations, both for me to understand and for the documentation and for us to establish the structure of the PR. However, this sould make future PRs faster and of higher quality.

File: Veir/Data/PBV/Mask.lean (hunk 13 above)
Comment (tobiasgrosser) [reply Veir/Data/PBV/Mask.lean:17]: Also, this seems to be equivalent to allOnes.setWidth. In theory we would not need the extra definition. Is it worth having both? Or could this maybe just be an abbrev? Did you consider these tradeoffs?

File: Veir/Data/PBV/Elim.lean (hunk 18 above)
Comment (luigirinaldi) [reply Veir/Data/PBV/Elim.lean:13]: no this doesn't work, it has to be in the `_root_.BitVec` namespace

File: Veir/Data/PBV/Elim.lean (hunk 29 above)
Comment (luigirinaldi) [reply Veir/Data/PBV/Elim.lean]: It think the Examples.lean already shows it working very explicitly.

File: Veir/Data/PBV/Mask.lean (hunk 13 above)
Comment (luigirinaldi) [reply Veir/Data/PBV/Mask.lean:17]: not sure how this works with the later metaprogramming, will experiment. I think lowMask is less descriptive

File: Veir/Data/PBV/Mask.lean (hunk 21 above)
Comment (luigirinaldi) [reply Veir/Data/PBV/Mask.lean]: indeed it's not

File: Veir/Data/PBV/Push.lean (hunk 27 above)
Comment (luigirinaldi) [reply Veir/Data/PBV/Push.lean:36]: these will make more sense once more theorems are added

File: Veir/Data/PBV/Elim.lean [hunk 30]
```diff
@@ -0,0 +1,40 @@
...
+theorem var_elim (o w : Nat) (hwo : w ≤ o) (Q : BitVec w → Prop)
+    (h : ∀ (x : BitVec o), x &&& maskOfWidth o w = x → Q (x.setWidth w)) :
+    ∀ (x : BitVec w), Q x := by
+  intro x
+  have hinv : (x.setWidth o) &&& maskOfWidth o w = x.setWidth o := by
+    apply BitVec.eq_of_toNat_eq
+    rw [toNat_and_maskOfWidth hwo, BitVec.toNat_setWidth_of_le hwo,
+      Nat.mod_eq_of_lt x.isLt]
+  have hx := h (x.setWidth o) hinv
+  rwa [BitVec.setWidth_setWidth_eq_self_of_le hwo] at hx
```
Comment (tobiasgrosser) [inline Veir/Data/PBV/Elim.lean]:
```suggestion
  simpa [hwo] using hx
```

File: Veir/Data/PBV/Lemmas.lean [hunk 31]
```diff
@@ -0,0 +1,31 @@
...
+/-- Widening is injective --/
+theorem setWidth_inj {w o : Nat} (h : w ≤ o) {a b : BitVec w}
+    (hab : a.setWidth o = b.setWidth o) : a = b := by
+  simpa [h] using congrArg (BitVec.setWidth w) hab
+
+/-- Widening and truncating back is the identity. -/
+theorem setWidth_setWidth_eq_self_of_le {w o : Nat} (h : w ≤ o) (x : BitVec w) :
+    (x.setWidth o).setWidth w = x := by
+  apply eq_of_toNat_eq
+  rw [toNat_setWidth, toNat_setWidth_of_le h, Nat.mod_eq_of_lt x.isLt]
```
Comment (tobiasgrosser) [inline Veir/Data/PBV/Lemmas.lean]:
```suggestion
```

This is not needed. `BitVec.setWidth_setWidth_of_le` (which is part of default simp set) suffices. See change of the ast remaining use in Elim.lean.

File: Veir/Data/PBV/Mask.lean [hunk 32]
```diff
@@ -0,0 +1,53 @@
...
+/-- `IsMask` encoded `m = 2^k - 1` for some `k` in terms of bitvector operations
+removing the dependency on 'k' and allowing it to be bitblasted. -/
+def IsMask {o : Nat} (m : BitVec o) : Prop := m &&& (m + 1#o) = 0#o
+
+theorem toNat_maskOfWidth {o w : Nat} (h : w ≤ o) :
+    (maskOfWidth o w).toNat = 2 ^ w - 1 := by
+  rw [maskOfWidth, BitVec.toNat_ofNat, Nat.mod_eq_of_lt]
+  have h1 : 2 ^ w ≤ 2 ^ o := Nat.pow_le_pow_right (by omega) h
+  have h2 : 0 < 2 ^ w := Nat.two_pow_pos w
+  grind
```
Comment (tobiasgrosser) [inline Veir/Data/PBV/Mask.lean]:
```suggestion
  lia
```

I feel we can stay with `omega` here.

File: Veir/Data/PBV/Push.lean [hunk 33]
```diff
@@ -0,0 +1,43 @@
...
+/-! # Rewriting a parametric expression into a concrete, single-width one.
+
+`eq_iff` introduces a `setWidth o` at the root of the goal, and the remaining
+lemmas push it down towards the leaves, masking the result of every
+width-sensitive operation. See `Veir.Data.PBV` for more details.
+-/
+
+namespace Veir.Data.PBV
+
+
```
Comment (tobiasgrosser) [inline Veir/Data/PBV/Push.lean]:
```suggestion

```

File: Veir/Data/PBV/Mask.lean [hunk 34]
```diff
@@ -0,0 +1,53 @@
...
+-/
+
+namespace Veir.Data.PBV
+
+public section
+
+/-- `maskOfWidth o w : BitVec o` has its low `w` bits set. -/
+def maskOfWidth (o w : Nat) : BitVec o := BitVec.ofNat o (2 ^ w - 1)
+
+/-- `IsMask` encoded `m = 2^k - 1` for some `k` in terms of bitvector operations
```
Comment (tobiasgrosser) [inline Veir/Data/PBV/Mask.lean]:
```suggestion
/-- `IsMask` encoded as `m = 2^k - 1` for some `k` in terms of bitvector operations
```

File: Veir/Data/PBV/Mask.lean [hunk 35]
```diff
@@ -0,0 +1,53 @@
...
+
+/-- Soundness: every real mask satisfies the constraint. -/
+theorem isMask_maskOfWidth {o w : Nat} :
+    IsMask (maskOfWidth o w) := by
+  simp [IsMask, maskOfWidth, BitVec.ofNat_add_ofNat, ← BitVec.ofNat_and,
+    Nat.sub_add_cancel Nat.one_le_two_pow, Nat.and_comm (2 ^ w - 1),
+    Nat.and_two_pow_sub_one_eq_mod]
+
+/-- The mask constraint: the only fact about `m` surviving abstraction. -/
+theorem mask_isMask {o w : Nat} {m : BitVec o}
```
Comment (tobiasgrosser) [inline Veir/Data/PBV/Mask.lean]:
```suggestion
theorem isMask_of_eq_maskOfWidth {o w : Nat} {m : BitVec o}
```

File: Veir/Data/PBV/Mask.lean [hunk 36]
```diff
@@ -0,0 +1,53 @@
...
+
+namespace Veir.Data.PBV
+
+public section
+
+/-- `maskOfWidth o w : BitVec o` has its low `w` bits set. -/
+def maskOfWidth (o w : Nat) : BitVec o := BitVec.ofNat o (2 ^ w - 1)
+
+/-- `IsMask` encoded `m = 2^k - 1` for some `k` in terms of bitvector operations
+removing the dependency on 'k' and allowing it to be bitblasted. -/
```
Comment (tobiasgrosser) [inline Veir/Data/PBV/Mask.lean]:
```suggestion
removing the dependency on `k` and allowing it to be bitblasted. -/
```

File: Veir/Data/PBV/Push.lean (hunk 27 above)
Comment (tobiasgrosser) [reply Veir/Data/PBV/Push.lean:36]: OK.

File: Veir/Data/PBV/Examples.lean [hunk 37]
```diff
@@ -0,0 +1,95 @@
...
+-- Step 7: Drop the Nat `w`
+  clear hw
+  clear w_le_bw h_mw
+  clear w
+-- Step 8: Bitblast!
+  bv_decide
+
+/-- Manual trace using calc to make the steps more explicit -/
+theorem trace_add_comm_manual_calc (w : Nat) (x y : BitVec w) (hw : w ≤ 4) :
+  x + y = y + x := by
```
Comment (tobiasgrosser) [inline Veir/Data/PBV/Examples.lean]: Should we only keep one of the two?

**Review by tobiasgrosser — COMMENTED** [review]
Another round of minor cosmetic changes.

File: Veir/Data/PBV/Mask.lean (hunk 13 above)
Comment (tobiasgrosser) [reply Veir/Data/PBV/Mask.lean:17]: OK.

File: Veir/Data/PBV/Mask.lean (hunk 32 above)
Comment (bollu) [reply Veir/Data/PBV/Mask.lean]: `omega` is incomplete for LIA, and the tactic automation uses `grind`. I'd keep it `grind`, or call it `lia`/`cutsat` (whatever the spelling is of `grind` with just the LIA solver) if we really wantit.

File: Veir/Data/PBV/Examples.lean (hunk 37 above)
Comment (bollu) [reply Veir/Data/PBV/Examples.lean]: I'd prefer to keep the version that doesn't use `calc`, since it matches what the tactic will eventually do.

File: Veir/Data/PBV/Mask.lean (hunk 32 above)
Comment (tobiasgrosser) [reply Veir/Data/PBV/Mask.lean]: Then let's use `lia`.

File: Veir/Data/PBV/Examples.lean (hunk 37 above)
Comment (tobiasgrosser) [reply Veir/Data/PBV/Examples.lean]: Sounds good to me.

Comment (luigirinaldi) [reply Veir/Data/PBV/Examples.lean]: I agree with that

**Review by tobiasgrosser — APPROVED** [review]
